Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Cipro
 
Attending: ___.
 
Chief Complaint:
cellulitis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo male with morbid obesity, chronic lymphedema with
recurrent cellulitis, HTN/HLD presenting with RLE pain and
erythema. Sx started 2 days ago, with erythema and pain 
involving
the anterior right leg extending to below the knee. He denies 
any
fevers, chills, sweats, nausea/vomiting. No purulent drainage
from the leg. He did sustain an abrasion to his posterior right
calf above the Achilles ~1wk ago during work. Denies any recent
immersion of the leg in any bodies of water. 

Pt came into the ED where he was afebrile with a normal white
count. He was given 1g IV Vancomycin and admission to hospital
medicine was requested. 

This is his third episode ___ cellulitis. His first episode in
___ involved the left foot/leg and was treated at ___. This was a severe infection requiring IV antibiotics
and multiple I&Ds, and he reports having an extended ___
hospital stay. His second episode was in ___ and involved
the right leg in a similar distribution to current presentation.
He was successfully treated with a 10-day course of PO
Keflex/Bactrim and did not require inpatient hospitalization at
that time. 

ROS: As per HPI, and 10 point ROS completed and otherwise
negative.

PMHx: 
Chronic lymphedema
Morbid obesity
HTN/HLD
Psoriasis
OSA on CPAP

Fam Hx: Mother with HTN

Soc Hx: Works refueling airplanes. Denies smoking, EtOH, drug 
use
 
Medications: updated in OMR

Exam: 
VITALS: Afebrile, P 77-92, SBPs 120-150, RR ___, O2 98 on RA

 
Physical Exam:
Exam: 
VITALS: Afebrile, P 77-92, SBPs 120-150, RR ___, O2 98 on RA

GENERAL: Awake, alert and in no apparent distress. Morbidly 
obese
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No GU catheter in place
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: Chronic venous stasis in bilateral ___. In the right leg
there is a superimposed non-purulent cellulitis involving the
anterior leg  extending to below the knee, warm and mildly 
tender
to touch, non-fluctuant (see separate pictures). A small ~1cm
abrasion is present superior to the right Achilles tendon. 
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

discharge
 
Brief Hospital Course:
___ yo male with morbid obesity, chroniclymphedema with recurrent 
cellulitis, HTN/HLD presenting with RLE pain and erythema due to 
recurrent cellulitis. 

# RLE cellulitis:
Most likely streptococcal cellulitis based on
the appearance. Portal of entry is most likely a small abrasion
located above the Achilles tendon.  He received vancomycin 
through ___ at noon and then will be discharged on PO Keflex 
alone given lack of purulence on exam and lack of systemic signs 
of sepsis to complete a 10d course of antibiotics.  Leg 
elevation and f/u with ___ clinic for venous stasis 
advised.

# Chronic venous stasis/venous hypertension/lymphedema: Pt has
impressive chronic venous stasis changes and morbid obesity,
placing him at risk for recurrent infections. Surprisingly he 
has
not had any specific therapy for this. Elevate legs ___ hose 
advised. Since he is on hctz, I will not discharge him with 
Lasix ondischarge since there is no contralateral venous stasis 
dermatitis and I worry about precipitating hypovolemia

# HTN: 
 Continue home HCTZ and Atenolol and olmesartan on discharge  

# OSA: continue home CPAP

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluocinolone Acetonide 0.025% Cream 1 Appl TP BID:PRN 
Psoriasis 
2. olmesartan-hydrochlorothiazide ___ mg oral DAILY 
3. Atorvastatin 10 mg PO QPM 
4. Atenolol 25 mg PO DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H Duration: 10 Days 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*40 Capsule Refills:*0 
2.  Atenolol 25 mg PO DAILY  
3.  Atorvastatin 10 mg PO QPM  
4.  Fluocinolone Acetonide 0.025% Cream 1 Appl TP BID:PRN 
Psoriasis  
5.  olmesartan-hydrochlorothiazide ___ mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right leg cellulitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
you were hospitalized with skin infection, CELLULITIS, of your 
lower right leg.  this was treated with IV antibiotics and will 
be treated with oral antibiotics on discharge. please keep your 
leg elevated.

we recommend you see a vascular specialist for chronic venous 
stasis to both legs
 
Followup Instructions:
___